US04103012
(d) 2-Ethyl-3-(4-hydroxy-benzoyl)-indolizine
In a 20-liter flask, a suspension of 1050 g (2.5 mols) of 2-ethyl-3-(4-tosyloxy-benzoyl)-indolizine in a solution of 420 g (10.5 mols) of sodium hydroxide dissolved in 8 l of ethanol and 4 l of water was refluxed for 6 hours. At the end of the reaction, the mixture was cooled, diluted with 2.5 l of water, neutralized with hydrochloric acid and the desired product was allowed to crystallize while being stirred. The product was then suction-filtered and dried under vacuum in a drying-oven maintained at 70° C.

reactant | 2-ethyl-3-(4-tosyloxy-benzoyl)-indolizine | 2.5 mols, 1050 g | C(C)C=1C=C2C=CC=CN2C1C(C1=CC=C(C=C1)OS(=O)(=O)C1=CC=C(C)C=C1)=O | C24H21NO4S
reactant | sodium hydroxide | 10.5 mols, 420 g | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 8 l | C(C)O | C2H6O
solvent | water | 2.5 l | O | H2O
solvent | water | 4 l | O | H2O
product | 2-Ethyl-3-(4-hydroxy-benzoyl)-indolizine | C(C)C=1C=C2C=CC=CN2C1C(C1=CC=C(C=C1)O)=O | C17H15NO2
